US07151105B2
Step 2: 3-(3-Chloro-4-methanesulfonyl-phenyl)-1-cyclopentyl-propan-1-one
A mixture of 4-bromo-2-chloro-1-methanesulfonyl-benzene (1.5 g, 5.6 mmol), 1-cyclopentyl-2-propen-1-ol (0.88 g, 6.96 mmol) and sodium acetate (0.57 g, 6.9 mmol) in DMAC (20 mL) was purged with N2 for 30 mins. Palladium (II) acetate (25 mg, 0.11 mmol) was added and the mixture was heated to 90° C. under N2 for 16 hours. The reaction mixture was partitioned between 1 N HCl and EtOAc. The organic layers were washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated to a brown oil. Purification by flash column chromatography (0% to 20% EtOAc in hexanes) gave the desired product (1.2 g, 69%). 1H NMR (300 MHz, CDCl3): δ 1.56–1.85 (br m, 8 H), 2.83 (m, 3 H), 2.96 (t, J=7.5 Hz, 2 H), 3.25 (s, 3 H), 7.29 (dd, J=8.1, 1.5 Hz, 1 H), 7.39 (d, J=1.5 Hz, 1 H), 8.04 (d, J=8.1 Hz, 1 H).

reactant | 4-bromo-2-chloro-1-methanesulfonyl-benzene | 5.6 mmol, 1.5 g | BrC1=CC(=C(C=C1)S(=O)(=O)C)Cl | C7H6BrClO2S
reactant | 1-cyclopentyl-2-propen-1-ol | 6.96 mmol, 0.88 g | C1(CCCC1)C(C=C)O | C8H14O
reactant | sodium acetate | 6.9 mmol, 0.57 g | C(C)(=O)[O-].[Na+]
solvent | DMAC | 20 mL | CC(=O)N(C)C | C4H9NO
catalyst | Palladium (II) acetate | 0.11 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(3-Chloro-4-methanesulfonyl-phenyl)-1-cyclopentyl-propan-1-one | 1.2 g, 69% | ClC=1C=C(C=CC1S(=O)(=O)C)CCC(=O)C1CCCC1 | C15H19ClO3S
